US07244499B2
The reagents used for the biotinylation and avidination are the following: 1.24 ml of DMSO was added to 1.1 mg of Biotin-AC5-OSu (manufactured by Dojindo Molecular Technologies, Inc.) to give 1.95 mM of biotin-DMSO solution. 950 l of pure water was added to 50 l of the biotin-DMSO solution, to give 0.0976 mM of biotin solution. The biotin solution thus obtained was designated as liquid A (apparox. 0.1 mM of biotin solution). 0.09 mg of fluorescent dye conjugated avidin (Avidun, Alexa Flour 488 conjugate: manufactured by Molecular Probes, Inc.) was dissolved in 900 L of 0.5M sodium phosphate buffer (pH 7.1), which was designated as liquid B.

reactant | biotin DMSO | 50 l | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12.CS(=O)C
solvent | water | 950 l | O | H2O
product | biotin | 0.0976 mM | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
